data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2275,2520,[CH3:13][NH:14][C:15](=[O:16])[C:17]([C:18](=[O:19])[NH:20][CH3:21])=[N+:22]([CH3:23])[C-:24]([C:25]([CH3:26])=[O:27])[C:28](=[O:29])[O:30][CH3:31].[CH3:1][O:2][C:3](=[O:4])[C:5]([O:6][CH3:7])=[C:8]([O:9][CH3:10])[O:11][CH3:12]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([O:6][CH3:7])[C:8]([O:9][CH3:10])([O:11][CH3:12])[C:24]([C:25]([CH3:26])=[O:27])([C:28](=[O:29])[O:30][CH3:31])[N:22]([CH3:23])[C:17]1([C:15]([NH:14][CH3:13])=[O:16])[C:18](=[O:19])[NH:20][CH3:21],water,298.15,38.08855182599953,-3.993009402423705
3073,3454,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][O:8][C:9](=[O:10])[CH-:11][N+:12]#[C:13][C:14]#[N:15]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[CH:11]([C:9]([O:8][CH3:7])=[O:10])[N:12]=[C:13]1[C:14]#[N:15],water,298.15,14.81478836009462,-38.78633272698483
2954,3297,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][CH-:6][N+:7]#[C:8][C:9](=[O:10])[NH:11][CH3:12]>>[CH3:1][C@H:2]1[C@@H:3]([CH3:4])[CH:6]([CH3:5])[N:7]=[C:8]1[C:9](=[O:10])[NH:11][CH3:12],water,298.15,19.95354920299852,-49.41474358288473
2835,3150,[CH3:23][O:24][C:25](=[O:26])[C:27](=[NH+:28][C-:29]([C:30]([CH3:31])=[O:32])[c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1)[C:39](=[O:40])[O:41][CH3:42].[N:1]#[C:2][C:3]1([C:4]#[N:5])[C:6]#[C:7][C:8]([c:9]2[cH:10][cH:11][cH:12][cH:13][cH:14]2)([C:15]([F:16])([F:17])[F:18])[CH2:19][CH2:20][CH2:21][CH2:22]1>>[N:1]#[C:2][C:3]1([C:4]#[N:5])[C:6]2=[C:7]([C:8]([c:9]3[cH:10][cH:11][cH:12][cH:13][cH:14]3)([C:15]([F:16])([F:17])[F:18])[CH2:19][CH2:20][CH2:21][CH2:22]1)[C:27]([C:25]([O:24][CH3:23])=[O:26])([C:39](=[O:40])[O:41][CH3:42])[NH:28][C:29]2([C:30]([CH3:31])=[O:32])[c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1,water,298.15,23.875182853961512,-28.49743780449684
4628,5277,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[CH:19]=[O+:20][CH-:21][C:22]([CH3:23])=[O:24]>>[C:1]1(=[O:2])[C@:3]2([O:4][CH3:5])[C@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[CH:21]([C:22]([CH3:23])=[O:24])[O:20][CH:19]2[C:17]([NH:16][CH3:15])=[O:18],water,298.15,5.405434306884278,-37.95474553840122
3315,3754,[CH3:10][CH-:11][NH+:12]=[C:13]([C:14]#[N:15])[C:16]#[N:17].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[CH:11]([CH3:10])[NH:12][C:13]1([C:14]#[N:15])[C:16]#[N:17],water,298.15,24.754770354918328,-5.4058590932039765
3045,3410,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][CH:6]=[N+:7]([CH3:8])[C-:9]([C:10]#[N:11])[C:12]([CH3:13])=[O:14]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[C:9]([C:10]#[N:11])([C:12]([CH3:13])=[O:14])[N:7]([CH3:8])[CH:6]1[CH3:5],water,298.15,24.78236198856993,-15.276667583316154
4054,4645,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[CH:15]=[O+:16][N-:17][C:18](=[O:19])[O:20][CH3:21]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[N:17]([C:18](=[O:19])[O:20][CH3:21])[O:16][CH:15]2[C:13]([NH:12][CH3:11])=[O:14],water,298.15,15.368347727320844,-26.68954191934145
4856,5539,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][NH:8][C:9](=[O:10])[C:11](=[O+:12][C-:13]([CH3:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[C:13]([CH3:14])([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[O:12][C:11]1([C:9]([NH:8][CH3:7])=[O:10])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,21.102273109868555,-30.887681575859983
531,580,[CH3:13][C:14](=[O:15])[C:16](=[NH+:17][O-:18])[C:19]([CH3:20])=[O:21].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([F:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:16]([C:14]([CH3:13])=[O:15])([C:19]([CH3:20])=[O:21])[NH:17][O:18]2,water,298.15,26.98848720808117,-5.810873205971571
2098,2326,[CH3:15][NH:16][C:17](=[O:18])[C:19](=[O+:20][C-:21]([C:22]#[N:23])[C:24](=[O:25])[O:26][CH3:27])[C:28]([CH3:29])=[O:30].[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]#[C:7][C:8]([F:9])([F:10])[CH2:11][CH2:12][CH2:13][CH2:14]1>>[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]2=[C:7]([C:8]([F:9])([F:10])[CH2:11][CH2:12][CH2:13][CH2:14]1)[C:21]([C:22]#[N:23])([C:24](=[O:25])[O:26][CH3:27])[O:20][C:19]2([C:17]([NH:16][CH3:15])=[O:18])[C:28]([CH3:29])=[O:30],water,298.15,6.178696199464674,-70.99331139984308
3912,4476,[CH3:10][NH:11][C:12](=[O:13])[C:14]([C:15]([CH3:16])=[O:17])=[N+:18]([CH3:19])[O-:20].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][O:20][N:18]([CH3:19])[C:14]1([C:12]([NH:11][CH3:10])=[O:13])[C:15]([CH3:16])=[O:17],water,298.15,21.886325804920503,4.850196894055174
